US05705515
A solution of 5-bromoindoline (14.8 g, 75 mmol) in 200 mL of 1N aqueous hydrochloric acid was treated with potassium thiocyanate (34.0 g, 350 mmol) in portions. The mixture was heated at reflux for 1 h and was then cooled to room temperature. The precipitate was collected, washed with water, and recrystallized from 2-propanol to afford (in two crops) 14.1 g (73%) of 5-bromoindoline-1-thiocarboxamide as a light yellow, fluffy solid.

reactant | 5-bromoindoline | 75 mmol, 14.8 g | BrC=1C=C2CCNC2=CC1 | C8H8BrN
reactant | potassium thiocyanate | 350 mmol, 34.0 g | [S-]C#N.[K+]
solvent | hydrochloric acid | 1N, 200 mL | Cl | ClH
product | 5-bromoindoline-1-thiocarboxamide | 14.1 g, 73% | BrC=1C=C2CCN(C2=CC1)C(N)=S | C9H9BrN2S
